US07635684B2
To a solution of 3-amino-2,2-dimethyl-1-propanol (2 g) in tetrahydrofuran (20 mL) was added N-(benzyloxycarbonyloxy)-succinimide (7.25 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1-1/1) to give 3-benzyloxycarbonylamino-2,2-dimethyl-1-propanol (4.6 g) To this material were added carbon tetrachloride (40 mL), acetonitrile (40 mL), water (48 mL), sodium periodate (11.6 g) and ruthenium trichloride (0.2 g) successively, and the mixture was stirred at room temperature overnight. To the reaction mixture were added sodium periodate (11.6 g) and ruthenium trichloride (0.2 g), and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with water, and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in a saturated aqueous potassium carbonate solution. The solution was washed with ethyl acetate, and the aqueous layer was acidified with 2 mol/L hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 3-benzyloxycarbonylamino-2,2-di(methyl)propionic acid (3.6 g). This material was dissolved in tetrahydrofuran (25 mL). To the solution was added 1,1′-carbonylbis-1H-imidazole (3.39 g), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 28% aqueous ammonia solution (25 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with 1 mol/L hydrochloric acid, water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 3-benzyloxycarbonylamino-2,2-di(methyl)-propionamide (3.35 g). The obtained 3-benzyloxycarbonylamino-2,2-di(methyl)propionamide (0.13 g) was dissolved in methanol (5 mL). To the solution was added 10% palladium-carbon powder (30 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (61 mg).

reactant | 3-amino-2,2-dimethyl-1-propanol | 2 g | NCC(CO)(C)C | C5H13NO
reactant | N-(benzyloxycarbonyloxy)-succinimide | 7.25 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-benzyloxycarbonylamino-2,2-dimethyl-1-propanol | 4.6 g | C(C1=CC=CC=C1)OC(=O)NCC(CO)(C)C | C13H19NO3
